US04081549
2-Aminomethyl-5-chloro-3-phenylbenzo[b]furan hydrochloride
Treat 2.0 g. of 2-cyano-5-chloro-3-phenylbenzo[b]furan (0.008 mole) in 30 ml. of tetrahydrofuran with 18 ml. of diborane in tetrahydrofuran (1 M solution) and reflux for 2 hours. Cool, add 10 ml. of 10% hydrochloric acid and reflux for 1/2 hour. Evaporate the solution to dryness and dissolve the residue in 50 ml. of ethanol. Add 30 ml. of ethanol saturated with hydrogen chloride. Dry the precipitate obtained to yield the title compound; m.p. 254°-256°.

reactant | 2-cyano-5-chloro-3-phenylbenzo[b]furan | 0.008 mole | C(#N)C1=C(C2=C(O1)C=CC(=C2)Cl)C2=CC=CC=C2 | C15H8ClNO
reactant | diborane | B#B | B2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | 2-Aminomethyl-5-chloro-3-phenylbenzo[b]furan hydrochloride | Cl.NCC1=C(C2=C(O1)C=CC(=C2)Cl)C2=CC=CC=C2 | InChI=1S/C15H12ClNO.ClH/c16-11-6-7-13-12(8-11)15(14(9-17)18-13)10-4-2-1-3-5-10;/h1-8H,9,17H2;1H
